US07449456B2
A 5 ml portion of NMP solution containing 300 mg of 4-benzylamino-2-(methylsulfonyl)pyrimidine-5-carboxamide was mixed with 122 mg of p-anisidine and 58 mg of potassium fluoride, followed by stirring at 90 to 100° C. for 21 hours. During this period, 58 mg of potassium fluoride was added three times. The reaction mixture was cooled down to room temperature, diluted with water, mixed with saturated sodium bicarbonate aqueous solution and then extracted with ethyl acetate. The organic layer was washed with saturated brine, and then the solvent was evaporated. The resulting residue was purified by a silica gel column chromatography (chloroform:methanol) and then recrystallized (methanol-THF) to obtain 82 mg of 4-benzylamino-2-[(4-methoxyphenyl)amino]pyrimidine-5-carboxamide as colorless crystals.

reactant | 4-benzylamino-2-(methylsulfonyl)pyrimidine-5-carboxamide | 300 mg | C(C1=CC=CC=C1)NC1=NC(=NC=C1C(=O)N)S(=O)(=O)C | C13H14N4O3S
reactant | p-anisidine | 122 mg | COC1=CC=C(C=C1)N | C7H9NO
reactant | potassium fluoride | 58 mg | [F-].[K+]
reactant | potassium fluoride | 58 mg | [F-].[K+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 4-benzylamino-2-[(4-methoxyphenyl)amino]pyrimidine-5-carboxamide | 82 mg | C(C1=CC=CC=C1)NC1=NC(=NC=C1C(=O)N)NC1=CC=C(C=C1)OC | C19H19N5O2
